### PR TITLE
[Merged by Bors] - feat(CategoryTheory/WithTerminal): Add pseudofunctors

### PR DESCRIPTION
**Pull request by jstoobysmith**
Defined the  pseudofunctors from `Cat` to `Cat` induced by `WithTerminal` and `WithInitial`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/WithTerminal.lean [hunk 1]
```diff
@@ -138,6 +141,116 @@ def map {D : Type*} [Category D] (F : C ⥤ D) : WithTerminal C ⥤ WithTerminal
...
+    apply NatTrans.ext
+    funext X
+    cases X <;> rfl
+  map₂_whisker_left := by
+    intros
+    apply NatTrans.ext
+    funext X
+    cases X
+    · rw [NatTrans.comp_app, NatTrans.comp_app]
+      unfold mapComp map  map₂
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/WithTerminal.lean:193]: The `unfold` tactic is very rarely used in mathlib. We always prefer to have good API lemmas instead of unfolding a definition deep inside a proof. Luckily, these lemmas can be autogenerated by the `simps` attribute. I would suggest tagging `map`, `mapComp` and `map₂` with `@[simps]` (or `@[simps!]` if necessary), then the simplifier should be able to unfold the definition in the right places. If you get problems with match statements appearing in your goals, then you might need to add some lemmas by hand along the lines of
```lean
@[simp]
lemma mapId_hom_app_of (X : C) : (mapId C).hom.app (of X) = 𝟙 (of X) :=
  rfl
```

**Review by TwoFX — CHANGES_REQUESTED** [review]
Hi, I have added a few comments. When addressing the comments, please check if the things I mentioned are present somewhere else in your changes, I haven't gone through everything in detail yet.

You might also be interested in the [mathlib style guide](https://leanprover-community.github.io/contribute/style.html) if you haven't read it in detail yet. The style guide contains much information, but of course it can't codify every last detail of how mathlib code is supposed to look. The rest comes with experience of reading and wirking with mathlib.

**Comment by jstoobysmith** [comment]
@TwoFX Many thanks for your comments. These are very very helpful. I've refactored the code taking your comments into account, as well as the style guide.

File: Mathlib/CategoryTheory/WithTerminal.lean [hunk 2]
```diff
@@ -126,6 +129,7 @@ instance : Full (incl : C ⥤ _) where
 instance : Faithful (incl : C ⥤ _) where
 
 /-- Map `WithTerminal` with respect to a functor `F : C ⥤ D`. -/
+@[simp]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/WithTerminal.lean:132]:
```suggestion
@[simps]
```

File: Mathlib/CategoryTheory/WithTerminal.lean [hunk 3]
```diff
@@ -138,6 +142,116 @@ def map {D : Type*} [Category D] (F : C ⥤ D) : WithTerminal C ⥤ WithTerminal
...
+@[simps!]
+def mapComp {D E : Type*} [Category D] [Category E] (F : C ⥤ D) (G : D ⥤ E) :
+    map (F ⋙ G) ≅ map F ⋙ map G :=
+  NatIso.ofComponents (fun X => match X with
+    | of x => Iso.refl _
+    | star => Iso.refl _) (by aesop_cat)
+
+/-- From a natrual transformation of functors `C ⥤ D`, the induced natural transformation
+of functors `WithTerminal C ⥤ WithTerminal D`. -/
+@[simp]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/WithTerminal.lean:162]:
```suggestion
@[simps]
```

File: Mathlib/CategoryTheory/WithTerminal.lean [hunk 4]
```diff
@@ -138,6 +142,116 @@ def map {D : Type*} [Category D] (F : C ⥤ D) : WithTerminal C ⥤ WithTerminal
...
+    · rw [NatTrans.comp_app, NatTrans.comp_app]
+      simp only [map, Cat.comp_obj, Cat.comp_map, Cat.id_map, map₂,
+        Bicategory.Strict.rightUnitor_eqToIso, eqToIso_refl, Iso.refl_hom, mapComp_hom_app,
+        Bicategory.whiskerLeft, whiskerLeft_app, mapId_hom_app, Category.id_comp]
+      rw [NatTrans.id_app,NatTrans.id_app]
+      simp only [Cat.comp_obj, Category.comp_id]
+      rw [← Functor.map_id]
+      rfl
+    · rfl
+
```
Comment (joelriou) [inline Mathlib/CategoryTheory/WithTerminal.lean:253]:
```suggestion
```

File: Mathlib/CategoryTheory/WithTerminal.lean [hunk 5]
```diff
@@ -313,6 +427,7 @@ instance : Full (incl : C ⥤ _) where
 instance : Faithful (incl : C ⥤ _) where
 
 /-- Map `WithInitial` with respect to a functor `F : C ⥤ D`. -/
+@[simp]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/WithTerminal.lean:430]:
```suggestion
@[simps]
```

File: Mathlib/CategoryTheory/WithTerminal.lean [hunk 6]
```diff
@@ -326,6 +441,115 @@ def map {D : Type*} [Category D] (F : C ⥤ D) : WithInitial C ⥤ WithInitial D
...
+@[simps!]
+def mapComp {D E : Type*} [Category D] [Category E] (F : C ⥤ D) (G : D ⥤ E) :
+    map (F ⋙ G) ≅ map F ⋙ map G :=
+  NatIso.ofComponents (fun X => match X with
+    | of x => Iso.refl _
+    | star => Iso.refl _) (by aesop_cat)
+
+/-- From a natrual transformation of functors `C ⥤ D`, the induced natural transformation
+of functors `WithInitial C ⥤ WithInitial D`. -/
+@[simp]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/WithTerminal.lean:461]:
```suggestion
@[simps]
```

File: Mathlib/CategoryTheory/WithTerminal.lean [hunk 7]
```diff
@@ -138,6 +142,115 @@ def map {D : Type*} [Category D] (F : C ⥤ D) : WithTerminal C ⥤ WithTerminal
...
+  map₂_left_unitor := by
+    intros
+    apply NatTrans.ext
+    funext X
+    cases X
+    · rw [NatTrans.comp_app, NatTrans.comp_app]
+      simp only [map, Cat.comp_obj, Cat.comp_map, Cat.id_map, map₂,
+        Bicategory.Strict.leftUnitor_eqToIso, eqToIso_refl, Iso.refl_hom, mapComp_hom_app,
+        Bicategory.whiskerRight, whiskerRight_app, mapId_hom_app, Category.id_comp]
+      rw [NatTrans.id_app,NatTrans.id_app]
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/WithTerminal.lean:234]:
```suggestion
      rw [NatTrans.id_app, NatTrans.id_app]
```

File: Mathlib/CategoryTheory/WithTerminal.lean [hunk 8]
```diff
@@ -138,6 +142,115 @@ def map {D : Type*} [Category D] (F : C ⥤ D) : WithTerminal C ⥤ WithTerminal
...
+
+/-- A natural isomorphism between the functor `map (F ⋙ G) ` and `map F ⋙ map G `. -/
+@[simps!]
+def mapComp {D E : Type*} [Category D] [Category E] (F : C ⥤ D) (G : D ⥤ E) :
+    map (F ⋙ G) ≅ map F ⋙ map G :=
+  NatIso.ofComponents (fun X => match X with
+    | of x => Iso.refl _
+    | star => Iso.refl _) (by aesop_cat)
+
+/-- From a natrual transformation of functors `C ⥤ D`, the induced natural transformation
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/WithTerminal.lean:160]:
```suggestion
/-- From a natural transformation of functors `C ⥤ D`, the induced natural transformation
```

File: Mathlib/CategoryTheory/WithTerminal.lean [hunk 9]
```diff
@@ -138,6 +142,115 @@ def map {D : Type*} [Category D] (F : C ⥤ D) : WithTerminal C ⥤ WithTerminal
...
+  map₂_right_unitor := by
+    intros
+    apply NatTrans.ext
+    funext X
+    cases X
+    · rw [NatTrans.comp_app, NatTrans.comp_app]
+      simp only [map, Cat.comp_obj, Cat.comp_map, Cat.id_map, map₂,
+        Bicategory.Strict.rightUnitor_eqToIso, eqToIso_refl, Iso.refl_hom, mapComp_hom_app,
+        Bicategory.whiskerLeft, whiskerLeft_app, mapId_hom_app, Category.id_comp]
+      rw [NatTrans.id_app,NatTrans.id_app]
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/WithTerminal.lean:248]:
```suggestion
      rw [NatTrans.id_app, NatTrans.id_app]
```

File: Mathlib/CategoryTheory/WithTerminal.lean [hunk 10]
```diff
@@ -326,6 +440,115 @@ def map {D : Type*} [Category D] (F : C ⥤ D) : WithInitial C ⥤ WithInitial D
...
+  map₂_left_unitor := by
+    intros
+    apply NatTrans.ext
+    funext X
+    cases X
+    · rw [NatTrans.comp_app, NatTrans.comp_app]
+      simp only [map, Cat.comp_obj, Cat.comp_map, Cat.id_map, map₂,
+        Bicategory.Strict.leftUnitor_eqToIso, eqToIso_refl, Iso.refl_hom, mapComp_hom_app,
+        Bicategory.whiskerRight, whiskerRight_app, mapId_hom_app, Category.id_comp]
+      rw [NatTrans.id_app,NatTrans.id_app]
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/WithTerminal.lean:532]:
```suggestion
      rw [NatTrans.id_app, NatTrans.id_app]
```

File: Mathlib/CategoryTheory/WithTerminal.lean [hunk 11]
```diff
@@ -326,6 +440,115 @@ def map {D : Type*} [Category D] (F : C ⥤ D) : WithInitial C ⥤ WithInitial D
...
+  map₂_right_unitor := by
+    intros
+    apply NatTrans.ext
+    funext X
+    cases X
+    · rw [NatTrans.comp_app, NatTrans.comp_app]
+      simp only [map, Cat.comp_obj, Cat.comp_map, Cat.id_map, map₂,
+        Bicategory.Strict.rightUnitor_eqToIso, eqToIso_refl, Iso.refl_hom, mapComp_hom_app,
+        Bicategory.whiskerLeft, whiskerLeft_app, mapId_hom_app, Category.id_comp]
+      rw [NatTrans.id_app,NatTrans.id_app]
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/WithTerminal.lean:546]:
```suggestion
      rw [NatTrans.id_app, NatTrans.id_app]
```

File: Mathlib/CategoryTheory/WithTerminal.lean [hunk 12]
```diff
@@ -138,6 +142,115 @@ def map {D : Type*} [Category D] (F : C ⥤ D) : WithTerminal C ⥤ WithTerminal
...
+    | star => 𝟙 star
+  naturality := by
+    intro X Y f
+    match X, Y, f with
+    | of x, of y, f => exact η.naturality f
+    | of x, star, _ => rfl
+    | star, star, _ => rfl
+
+/-- The pseudofunctor from `Cat` to `Cat` defined with `WithTerminal`. -/
+def pseudofunctor : Pseudofunctor Cat Cat where
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/WithTerminal.lean:175]: You'll want to add `@[simps]` here so that future users of your code also have nice API lemmas.

Comment (jstoobysmith) [reply Mathlib/CategoryTheory/WithTerminal.lean:176]: Fixed. Thanks for pointing this out.

**Comment by joelriou** [comment]
Thanks!

bors merge
